US07964293B2
Under nitrogen atmosphere, 6.32 g of 3-bromopyridine was dissolved in 400 ml of dehydrated toluene. The solution was cooled at −78° C. and 17 ml of 2.6M normal-butyllithium was dropped. After 0.5 hours, 12.6 g of zinc chloride tetramethylethylenediamine, and 200 ml of dehydrated THF were added. The solution was heated to room temperature, 10.63 g of 2,6-dibromopyridine and 0.6 g of Pd(PPh3)4 were added, and the solution was stirred for 24 hours. The reaction liquid was washed by an ammonium chloride aqueous solution, and the organic layer was concentrated in an evaporator. The concentrates were purified by column chromatography, and thus 4.2 g of 6-bromo-2,3′-bipyridine was obtained.

reactant | 3-bromopyridine | 6.32 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | normal-butyllithium | 2.6M, 17 ml | C(CCC)[Li]
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | 2,6-dibromopyridine | 10.63 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc chloride tetramethylethylenediamine | 12.6 g | CN(CCN(C)C)C.[Cl-].[Zn+2].[Cl-]
catalyst | Pd(PPh3)4 | 0.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-bromo-2,3′-bipyridine | 4.2 g | BrC1=CC=CC(=N1)C=1C=NC=CC1 | C10H7BrN2
